US09145393B2
A solution of 5-(azetidin-3-ylamino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one di-hydrobromide (80.0 mg, 0.185 mmol) in DMF (1 mL) was added cinnamic acid (60 mg, 0.41 mmol), HATU (105 mg, 0.277 mmol), and DIPEA (120 mg, 0.924 mmol). The reaction mixture was stirred at RT under nitrogen for 16 h. The residue was purified by Prep HPLC (ethyl acetate/hexane) to afford (E)-5-((1-cinnamoylazetidin-3-yl)amino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one (41 mg, 55%) as a white solid: 1H NMR (400 MHz, CDCl3) δ 11.25 (s, 1H), 8.11 (d, J=5.4 Hz, 1H), 7.69 (d, J=15.6 Hz, 1H), 7.52 (dd, J=6.7, 3.0 Hz, 2H), 7.37 (dd, J=5.0, 2.0 Hz, 3H), 7.09 (d, J=2.2 Hz, 1H), 6.63 (dd, J=5.4, 1.6 Hz, 1H), 6.48 (d, J=15.6 Hz, 1H), 6.38 (d, J=1.9 Hz, 2H), 5.48 (d, J=6.6 Hz, 1H), 4.80-4.65 (m, 2H), 4.63-4.50 (m, 1H), 4.46-4.32 (m, 1H), 4.26-4.05 (m, 2H), 2.98 (d, J=4.8 Hz, 3H); MS (ES) m/z 402 (M+H).

reactant | 5-(azetidin-3-ylamino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one di-hydrobromide | 0.185 mmol, 80.0 mg | Br.Br.N1CC(C1)NC1=CC(=CNC1=O)C1=CC(=NC=C1)NC
reactant | cinnamic acid | 0.41 mmol, 60 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | HATU | 0.277 mmol, 105 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.924 mmol, 120 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (E)-5-((1-cinnamoylazetidin-3-yl)amino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one | 41 mg, 55% | C(\C=C\C1=CC=CC=C1)(=O)N1CC(C1)NC1=CC(=CNC1=O)C1=CC(=NC=C1)NC | C23H23N5O2
